US06495546B1
Under nitrogen, to a solution of allylphenylamine (3 ml) in dichloromethane (30 ml) were added pyridine (2.1 ml) and benzyl chloroformate (3.5 ml) at 5° C., and the mixture was stirred at the same temperature for 3 hours. The resulting mixture was poured into aqueous 1N hydrogen chloride and extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=20:1 to 10:1) to give N-allyl-N-phenylbenzyloxycarbonylamine (5.5 g).

reactant | allylphenylamine | 3 ml | C(C=C)NC1=CC=CC=C1 | C9H11N
reactant | pyridine | 2.1 ml | N1=CC=CC=C1 | C5H5N
reactant | benzyl chloroformate | 3.5 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-allyl-N-phenylbenzyloxycarbonylamine | 5.5 g | C(C=C)N(C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C17H17NO2
